US09447091B2
a) N-(3-nitro-5-(2-oxopyridin-1(2H)-yl)phenyl)acetamide
To a solution of N-(3-bromo-5-nitrophenyl)acetamide (1 g, 3.85 mmol), pyridin-2-ol (0.4 g, 4.24 mmol, 1.1 eq.), potassium carbonate (1 g, 1.3 mmol, 1.0 eq.) and copper(I) iodide (10 mg) in toluene (20 ml) was added trans cyclohexyl diamine (5 mg, 0.039 mmol, 0.01 eq.) and the mixture was heated at 100° C. for 16 h. The mixture was quenched and extracted as in Example 1(d). The solvent was distilled off and the residue was purified by column chromatography (60-120 silica gel, 50% ethyl acetate in hexane) to give the product in 95% yield (1 g).

reactant | N-(3-bromo-5-nitrophenyl)acetamide | 3.85 mmol, 1 g | BrC=1C=C(C=C(C1)[N+](=O)[O-])NC(C)=O | C8H7BrN2O3
reactant | pyridin-2-ol | 4.24 mmol, 0.4 g, 1.1 eq. | N1=C(C=CC=C1)O | C5H5NO
reactant | potassium carbonate | 1.3 mmol, 1 g, 1.0 eq. | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
catalyst | copper(I) iodide | 10 mg | [Cu]I
product | N-(3-nitro-5-(2-oxopyridin-1(2H)-yl)phenyl)acetamide | 95% yield | [N+](=O)([O-])C=1C=C(C=C(C1)N1C(C=CC=C1)=O)NC(C)=O | C13H11N3O4
